US04732979
100 g (0.55 mol) of 6-chloro-3,4-dihydro-2(1H)-naphthalenone were dissolved in 2 l of toluene under argon, treated with 64.0 g of powdered potassium hydroxide, heated to boiling temperature, 165 g of 3-chloropropylamine hydrochloride were added portionwise thereto during 30 minutes and the mixture was boiled on a water separator until educt can no longer be detected in a thin-layer chromatogram. After cooling to room temperature the mixture was treated with 155 ml of triethylamine. The mixture was treated dropwise with 60 ml of acetyl chloride dissolved in 450 ml of toluene while cooling with ice so that an internal temperature of 25° was not exceeded. The mixture was stirred at room temperature for 1 hour, extracted with water/methylene chloride, dried with magnesium sulphate, the solvent was distilled off in vacuo and there was obtained 4-acetyl-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline in the form of brown crystals which can be employed as the crude product for the reaction described hereinafter.

reactant | 6-chloro-3,4-dihydro-2(1H)-naphthalenone | 0.55 mol, 100 g | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
reactant | potassium hydroxide | 64.0 g | [OH-].[K+]
reactant | 3-chloropropylamine hydrochloride | 165 g | Cl.ClCCCN
reactant | acetyl chloride | 60 ml | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 155 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-acetyl-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | C(C)(=O)N1CCCC=2C3=C(CCC12)C=C(C=C3)Cl | C15H16ClNO
